US05143643
In a solution of 3 g of 6-pentyloxyheptanol in 10 ml of pyridine, 3.4 g of p-toluenesulfonyl chloride was added in 30 min. at 0°-5° C. After the addition, the mixture was stirred for 5 hours at an increased temperature of 20°-25° C. After the reaction, the mixture was poured in cold water, acidified with 6N-hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried with anhydrous MgSO4, followed by distilling-off of the ethyl acetate to obtain 4.36 g of 6-pentyloxyheptyl p-toluenesulfonate.

reactant | 6-pentyloxyheptanol | 3 g | C(CCCC)OC(CCCCCO)C | C12H26O2
reactant | p-toluenesulfonyl chloride | 3.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 6-pentyloxyheptyl p-toluenesulfonate | 4.36 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCC(C)OCCCCC)C | C19H32O4S
